US07538135B2
A solution of 4-hydroxybenzenesulfonic acid sodium salt dihydrate (20 g, 86 mmol) in 1 N aqueous sodium hydroxide (86 mL, 86 mmol) is stirred and heated at 50-60° C. for 1 h. The solution is concentrated in vacuo at 50° C. to give a solid. The solid is suspended in anhydrous toluene and concentrated in vacuo. This process is repeated twice. The solid is dried at 50° C. at high vacuum for 18 h to give 4-hydroxybenzenesulfonic acid disodium salt.

reactant | 4-hydroxybenzenesulfonic acid sodium salt dihydrate | 86 mmol, 20 g | O.O.[Na+].OC1=CC=C(C=C1)S(=O)(=O)[O-]
reactant | sodium hydroxide | 86 mmol, 1 N, 86 mL | [OH-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-hydroxybenzenesulfonic acid disodium salt | [Na+].[Na+].OC1=CC=C(C=C1)S(=O)(=O)[O-].OC1=CC=C(C=C1)S(=O)(=O)[O-] | InChI=1S/2C6H6O4S.2Na/c2*7-5-1-3-6(4-2-5)11(8,9)10;;/h2*1-4,7H,(H,8,9,10);;/q;;2*+1/p-2
